US04075210
By substituting for the 6-chloro-2-methylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one in the procedure of Example 4, 6-chloro-2,4-dimethylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one, 2,4-dimethylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one is formed, yield: 76%; m.p. >300° (DMF).

reactant | 6-chloro-2-methylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one | ClC1=CC=2NC=3N(C(C2C=N1)=O)N=C(C3)C | C10H7ClN4O
reactant | 6-chloro-2,4-dimethylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one | ClC1=CC=2N(C=3N(C(C2C=N1)=O)N=C(C3)C)C | C11H9ClN4O
product | 2,4-dimethylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one | yield: 76% | CC1=NN2C(N(C3=C(C2=O)C=NC=C3)C)=C1 | C11H10N4O
